### PR TITLE
fix(Tactic/Linarith): carry `!` and the configuration into `linarith?…

### PR DESCRIPTION
**Pull request by BorisTheBrave**
`linarith?` uses the same configuration as `linarith`,
but previously printed a bare `linarith only [...]` suggestion regardless
of the configuration.

Now all config options except `minimize` are carried into the suggestion.

---

Note: #42588 has a [test](https://github.com/leanprover-community/mathlib4/pull/42588/files#diff-3657543f804f0a57e384f6a9338cc53803a50bebdfb16c1ecd0b514f3fda332fR863) that
unintentionally highlights the problem:

```lean
/--
info: Try this:
  [apply] linarith only [hne, hle]
-/
#guard_msgs in
example (a b : ℚ) (hne : a ≠ b) (hle : a ≥ b) (junk : (0:ℚ) < 1) : b < a := by
  linarith? +splitNe
```

This suggestion doesn't actually close the proof.

It should suggest `linarith +splitNE only [hne, hle]`.

Should we be using `says` syntax for these tests? I'm unclear on the rule here.

Note: `simp?` has very similar code, `filterSuggestionsAndLocalsFromSimpConfig`, that this PR was modelled after.

AI disclosure:

Claude Code (Fable) first flagged this problem to me, and wrote the first draft. I
made some tweaks to better fit mathlib's style, and wrote all the prose.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Linarith/Frontend.lean [hunk 1]
```diff
@@ -549,26 +571,30 @@ elab_rules : tactic
...
           replaceMainGoal []
+          let filteredCfg := filterMinimizeFromLinarithConfig cfg
           -- TODO: we should check for, and deal with, shadowed names here.
           let idsList ← used.mapM fun e => do
             pure (Lean.mkIdent (← e.fvarId!.getUserName))
-          let sugg ← `(tactic| linarith only [$(idsList.toArray),*])
+          let sugg ← if bang.isSome then
+            `(tactic| linarith! $filteredCfg:optConfig only [$(idsList.toArray),*])
+          else
+            `(tactic| linarith $filteredCfg:optConfig only [$(idsList.toArray),*])
```
Comment (robin-carlier) [inline Mathlib/Tactic/Linarith/Frontend.lean]:
```suggestion
          let sugg ← 
            `(tactic| linarith%$tk $[!%$bang]? $filteredCfg:optConfig only [$(idsList.toArray),*])
```

File: Mathlib/Tactic/Linarith/Frontend.lean [hunk 2]
```diff
@@ -532,6 +532,28 @@ elab_rules : tactic
     let cfg := (← elabLinarithConfig cfg).updateReducibility bang.isSome
     commitIfNoEx do liftMetaFinishingTactic <| Linarith.linarith o.isSome args.toList cfg
 
+/--
+Filter out `minimize` options from the config syntax.
+-/
+def filterMinimizeFromLinarithConfig (cfg : TSyntax ``Lean.Parser.Tactic.optConfig) :
```
Comment (sharky564) [inline Mathlib/Tactic/Linarith/Frontend.lean]: This file is inside `public meta section`, so as written this becomes public API. It'd only used by the `linarith?` elab below, so probably this should be made `private`, matching `minimize` right underneath?

File: Mathlib/Tactic/Linarith/Frontend.lean [hunk 3]
```diff
@@ -532,6 +532,28 @@ elab_rules : tactic
...
+  let configItems := nullNode.getArgs
+
+  -- Filter out configItem nodes that set `minimize`.
+  let filteredItems := configItems.filter fun item =>
+    match item[0]?, item.getKind with
+    | some configItem, ``Lean.Parser.Tactic.configItem =>
+      match configItem[1]? with
+      | some name => name.getId.eraseMacroScopes != `minimize
+      | none => true
+    | _, _ => true
```
Comment (sharky564) [inline Mathlib/Tactic/Linarith/Frontend.lean]: Rather than this index-checking, is it possible to use `mkConfigItemViews` in `Lean.Elab.Tactic.Config`? Would make this more robust.

File: MathlibTest/Tactic/Linarith/Basic.lean [hunk 4]
```diff
@@ -801,6 +801,30 @@ info: Try this:
...
+example (a : ℚ) (h : a < 0) : a ≤ 0 := by
+  linarith? (oracle := .fourierMotzkin)
+
+/--
+info: Try this:
+  [apply] linarith (oracle := .fourierMotzkin) only [h]
+-/
+#guard_msgs in
+example (a : ℚ) (h : a < 0) : a ≤ 0 := by
+  linarith? -minimize (oracle := .fourierMotzkin) only [h]
```
Comment (sharky564) [inline MathlibTest/Tactic/Linarith/Basic.lean:834]: Could you add the `+minimize` test as well for completeness?

**Review by sharky564 — COMMENTED** [review]
Solid find, and should compose well with my PR #42588 , after a rebase. Approach seems reasonable to me.

File: Mathlib/Tactic/Linarith/Frontend.lean (hunk 3 above)
Comment (BorisTheBrave) [reply Mathlib/Tactic/Linarith/Frontend.lean]: `mkConfigItemViews` is deprecated, but I changed it to use `ConfigEval.foldConfigM` and `mkOptConfig`.

We could also change https://github.com/leanprover/lean4/blob/6a10ac8c22beadecabdbb0919c2b50214762f91d/src/Lean/Elab/Tactic/SimpTrace.lean#L24-L44, not sure if there's apetite for this.

File: Mathlib/Tactic/Linarith/Frontend.lean (hunk 2 above)
Comment (BorisTheBrave) [reply Mathlib/Tactic/Linarith/Frontend.lean]: Done

File: MathlibTest/Tactic/Linarith/Basic.lean (hunk 4 above)
Comment (BorisTheBrave) [reply MathlibTest/Tactic/Linarith/Basic.lean:834]: Ok. Also added `(minimize := true)` test

File: Mathlib/Tactic/Linarith/Frontend.lean [hunk 5]
```diff
@@ -532,6 +532,33 @@ elab_rules : tactic
     let cfg := (← elabLinarithConfig cfg).updateReducibility bang.isSome
     commitIfNoEx do liftMetaFinishingTactic <| Linarith.linarith o.isSome args.toList cfg
 
+/--
+Filter the items of a tactic config syntax, keeping only those satisfying `p`.
+Items that cannot be interpreted as configuration items are conservatively kept.
+-/
+private def filterConfigM {m : Type → Type} [Monad m] [MonadRef m]
```
Comment (JovanGerb) [inline Mathlib/Tactic/Linarith/Frontend.lean]: This is a general function, but I don't think there will be any other use cases of it, so I think we should just inline it in `filterMinimizeFromLinarithConfig`

**Review by JovanGerb — COMMENTED** [review]
Thanks, looks good to me

File: Mathlib/Tactic/Linarith/Frontend.lean (hunk 5 above)
Comment (BorisTheBrave) [reply Mathlib/Tactic/Linarith/Frontend.lean]: I liked the clarity that the filter criteria was not buried amongst some monadic guff.

Comment (JovanGerb) [reply Mathlib/Tactic/Linarith/Frontend.lean]: You could expand the docstring on `filterMinimizeFromLinarithConfig` to explain why `minimize` is being filtered out. Either way, that should help with clarity.

Comment (BorisTheBrave) [reply Mathlib/Tactic/Linarith/Frontend.lean]: Ok, done.
